US07064226B2
A mixture containing Catalyst A or B (0.05 g) and ethyl oleate (1.55 g, 5 mmol) and pentanol (10 ml) was refluxed with stirring for 40 h. On cooling ether (30 ml) was added and the catalyst was filtered off. The organic washings were combined and concentrated to give pentyl oleate as an oil (1.6 g, 91% yield).

reactant | ethyl oleate | 5 mmol, 1.55 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC | C20H38O2
reactant | pentanol | 10 ml | C(CCCC)O | C5H12O
solvent | ether | 30 ml | CCOCC | C4H10O
product | pentyl oleate | 1.6 g, 91% yield | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCCCCC | C23H44O2
